US05491153
Preparation of 3-[(Phenacyl)amino]-2-carboxy-4,6-dichloroindole
Mix 3-[(phenacyl)amino]-2-carbethoxy-4,6-dichloroindole (300 mg, 0.79 mmol), lithium hydroxide monohydrate (2.39 mmol), tetrahydrofuran (2 mL) and water (2 mL). Stir at room temperature overnight. Dilute with water and ethyl acetate. Acidify the aqueous phase and separate the organic phase. Dry (MgSO4), evaporate the solvent in vacuo, and recrystallizethe residue (ethyl acetate/hexane) to give the title compound (175 mg, 64%).

reactant | 3-[(phenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 0.79 mmol, 300 mg | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C19H16Cl2N2O3
reactant | lithium hydroxide monohydrate | 2.39 mmol | O.[OH-].[Li+]
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
product | 3-[(Phenacyl)amino]-2-carboxy-4,6-dichloroindole | 175 mg, 64% | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C17H12Cl2N2O3
